US05077304
3.0 g of 1-tert.-butyl-3-[2,4-diisopropyl-6-(4-chlorophenoxy)-pyrid-3-yl]-thiourea and 2.1 g of 2-chloro-1-methylpyridinium iodide are placed in 20 ml of acetonitrile and, at room temperature, a solution of 1.6 g of triethylamine in 7 ml of acetonitrile is added. The reaction mixture is then stirred for 1 hour at approximately +65° C. After evaporation of the solvent, the residue is taken up in hexane/water. The organic phase is dried over magnesium sulfate and the solvent is removed in vacuo. The crude product is purified by column chromatography on silica gel (eluant: ethyl acetate/hexane 1:5). 1-tert.-Butyl-3-[2,4-diisopropyl-6-(4-chlorophenoxy)-pyrid-3-yl]-carbodiimide is obtained in the form of a colourless oil which solidifies after a few hours. M.p. 46°-55° C.

reactant | 1-tert.-butyl-3-[2,4-diisopropyl-6-(4-chlorophenoxy)-pyrid-3-yl]-thiourea | 3.0 g | C(C)(C)(C)NC(=S)NC=1C(=NC(=CC1C(C)C)OC1=CC=C(C=C1)Cl)C(C)C | C22H30ClN3OS
reactant | 2-chloro-1-methylpyridinium iodide | 2.1 g | [I-].ClC1=[N+](C=CC=C1)C
reactant | triethylamine | 1.6 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
product | 1-tert.-Butyl-3-[2,4-diisopropyl-6-(4-chlorophenoxy)-pyrid-3-yl]-carbodiimide | C(C)(C)(C)N=C=NC=1C(=NC(=CC1C(C)C)OC1=CC=C(C=C1)Cl)C(C)C | C22H28ClN3O
